US08791132B2
9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene (700 mg, 3.0 mmol) was dissolved in DMF (7 mL) and sodium hydride (360 mg, 9.0 mmol) was added portionwise at 0° C. and stirred for 10 min. 2-(4-Fluoro-phenyl)-2-methyl-oxirane (720 mg, 4.8 mmol) in 3 mL DMF was added dropwise into the reaction mixture and the mixture was stirred at RT for 18 h. The reaction mixture was quenched with ice cooled water and extracted with EtOAc (3×100 mL). The combined organic layer was washed with water (4×75 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by passing through a column of silica gel (100-200 mesh), using the eluent 5% MeOH in DCM to obtain 520 mg of 2-(4-fluoro-phenyl)-1-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6,7-triaza cyclopenta[c]fluoren-6-yl)-propan-2-ol. 1H NMR (CDCl3, freebase) δ (ppm): 8.02 (s, 1H), 7.54 (s, 1H), 7.43 s (OH), 7.37 (t, 2H), 6.93 (t, 2H), 4.37 (d, 1H), 4.22 (d, 1H), 4.04 (t, 1H), 3.23 (dd, 1H), 2.9 (m, 1H), 2.7 (m, 2H), 2.5 (m, 2H), 2.42 (s, 3H), 2.3 (m, 1H), 1.84 (m, 3H), 1.6 (s, 3H). Separation by chiral HPLC provided diastereomers II-149a-d.

reactant | 9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene | 3.0 mmol, 700 mg | CC1=CC=2C=3C4N(CCC3NC2N=C1)CCC4 | C14H17N3
reactant | sodium hydride | 9.0 mmol, 360 mg | [H-].[Na+]
reactant | 2-(4-Fluoro-phenyl)-2-methyl-oxirane | 4.8 mmol, 720 mg | FC1=CC=C(C=C1)C1(OC1)C | C9H9FO
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluoro-phenyl)-1-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6,7-triaza cyclopenta[c]fluoren-6-yl)-propan-2-ol | 520 mg | FC1=CC=C(C=C1)C(CN1C=2N=CC(=CC2C=2C3N(CCC12)CCC3)C)(C)O | C23H26FN3O
